Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
imiquimod / lactose
 
Attending: ___.
 
Chief Complaint:
Bladder outlet obstruction
 
Major Surgical or Invasive Procedure:
Transurethral Resection of Prostate

 
History of Present Illness:
___ y.o. male with history of LUTS who presents for surgical 
management of his BPH

 
Past Medical History:
medical history of CVA, urinary retention, Neurogenic bladder, 
HTN.
 
Physical Exam:
XAM at Discharge

WDWN, NAD, AVSS

Abdomen soft, non-distended 
Foley in place, secured to medial thigh. Draining clear

Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves

 
Pertinent Results:
___ 06:35AM BLOOD WBC-8.7 RBC-4.61 Hgb-13.9 Hct-41.4 MCV-90 
MCH-30.2 MCHC-33.6 RDW-12.9 RDWSD-42.2 Plt Ct-97*
___ 06:35AM BLOOD Glucose-92 UreaN-12 Creat-0.9 Na-140 
K-4.3 Cl-102 HCO3-27 AnGap-11
 
Brief Hospital Course:
Mr. ___ was admitted to ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. Continuous bladder irrigation overnight. On POD1 
the CBI was discontinued and Foley catheter was removed with an 
active vodiding trial.  Post void residuals were checked. He was 
unable to void and bladder scan showed 450 residual with some 
mild bladder pain. at that time a ___ coude catheter was 
replaced. His urine was clear and and without clots. He remained 
a-febrile throughout his hospital stay.  At discharge, the 
patient had pain well controlled with oral pain medications, was 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty.  He was given pyridium and oral pain 
medications on discharge. He will follow up with Dr. ___ 
void trial this week. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 30 mg PO DAILY 
2. Carbamazepine (Extended-Release) Dose is Unknown  PO 
Frequency is Unknown 
3. LevETIRAcetam 1000 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. psyllium husk 3.4 g oral DAILY 
6. amLODIPine 2.5 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Phenazopyridine 100 mg PO TID Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*40 Tablet Refills:*1 
3.  Carbamazepine (Extended-Release) 200 mg PO BID  
4.  amLODIPine 2.5 mg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  
7.  LevETIRAcetam 1000 mg PO BID  
8.  Lisinopril 30 mg PO DAILY  
9.  psyllium husk 3.4 g oral DAILY  
10.  Tamsulosin 0.4 mg PO QHS  
11. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until Restart this medication on ___ if your 
urine is clear.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
•DO drink plenty of water to flush out the bladder. 

•DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 

•Don't take blood-thinning medications until your doctor says 
it's OK. 

•Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 

•Don't have sex. You'll likely be able to resume sexual activity 
in about four to six weeks. 

•Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

•You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is “OK” unless it transitions from ___, 
___ Aid to a very dark, thick or “like tomato juice” 
color

•Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
team.  

•Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

•If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a “trial of void” or “void trial”).  

•You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

•Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

•AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

•No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

•Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

•Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

•The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

•Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
•-Please also reference the nursing handout and instructions on 
routine care and hygiene

•-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

•-DO NOT allow anyone outside your urologist/team representative 
remove your Foley for any reason.

•-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

•-Do NOT drive if you have a Foley in place (for your safety-but 
of course you may be a passenger

 
Followup Instructions:
___